Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I went out drinking and started thinking about
stuff"

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old man with self reported psychiatric
history of depression who was BIBA after mother called police 
due
to text message from patient saying "I'm going to jump off a
bridge".

Per EMS run report: patient was found walking on scene, angry,
raised voice, swearing at officers. Mother reportedly had text
message from son saying "I'm going to jump off a bridge". Mother
reported patient has a history of depression depression, and
family members were concerned that he would act on SI threat.
Patient denied SI, HI, A/V hallucinations. Patient did not agree
with medical transport.

On interview at this time, patient says reason he came to the
hospital was because he wasn't feeling good, further elaborates
that he was feeling depressed. Says he has felt depressed for
years since he was a child, but has felt more overwhelmed
recently, like "life is too much". Notes recent stressors being
working a lot and a car accident a few months ago that was
traumatizing. Says he occasionally has thoughts of not wanting 
to
be around, hoping that something out of his control would happen
to end his life. Adamantly denies thoughts of killing himself,
stating "I could never do that". 

Says he texted his mom the above message because he felt
overwhelmed and "wanted attention". Says his mother never gives
him attention. He didn't think she would call the police. He is
angry about being brought to the hospital because he feels he
doesn't need to be here.

Reports looking forward to getting back to work. Says he still
enjoys life and doesn't want to die. Reports compliance with 
home
med sertraline which was prescribed to him from PCP for
depression symptoms. Also sees his therapist regularly, ___.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: no formal diagnoses, but PCP prescribes
medication for symptoms of depression
-Hospitalizations: denies 
-Psychiatrist: denies current, unsure if he has ever seen a
psychiatrist 
-Therapist: ___, ___
-Medication trials: sertraline (current therapy)
-Suicide attempts: denies
-Self-injurious behavior: denies 
-Trauma: reports being taken out of his home and put into
residential programs as a kid which was difficult, denies
physical or sexual truama
-Access to weapons: denies

PAST MEDICAL HISTORY:
**PCP: Dr. ___ 
-___ any medical problems
-Denies history of seizure.
 
Social History:
___
Family History:
-Psychiatric Diagnoses: denies
-Substance Use Disorders: unknown
-Suicide Attempts/Completed Suicides: denies
 
Physical Exam:
On admission:

VS: T: 98.6, HR: 64, BP: 116/72, RR: 16, SpO2: 97% on RA
 
General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear.  No scleral icterus.
-Cardiovascular: Regular rate, normal S1/S2. Radial pulses 2+.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdomen: Soft, non-tender, non-distended. Positive bowel 
sounds.

-Extremities: Warm and well-perfused.  No peripheral edema.
-Skin: No rashes or lesions noted. Tattoo at chest. 
 
Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk. No abnormal movements, no tremor. Strength
___ bilateral biceps, triceps, iliopsoas, quadriceps, 
hamstrings.
-Sensory: No deficits to fine touch throughout
-DTRs: 2+ and symmetrical biceps, brachial, patellar
Coordination: No dysmetria on finger to nose test or heel to
shin, no intention tremor noted 
-Gait: Good initiation.  Narrow-based, normal stride and
armswing.  Able to walk in tandem without difficulty.  
 
Cognition: declined apart from A&Ox4; below exam from ___, MD's ___ initial ED consult note: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 4
presidents
-Calculations: $1.75 = "7" quarters
-Abstraction: apple+orange="fruit" watch+ruler="measure things"
bike+train="transportation"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation
 
Mental Status:
-Appearance: young Hispanic man appearing stated age, well
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting upright in exam chair, appropriate eye
contact. No psychomotor agitation or retardation
-Attitude: Initially irritable, defensive. Later more engaged,
forthcoming. 
-Mood: "fine"
-Affect: Mood-congruent, euthymic to irritable, full range,
appropriate to situation
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content: asking appropriate questions about CV vs. S12,
inpatient hospitalization, medication regimens 
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor 

On discharge:

Mental Status:
- Appearance: young tan athletic Hispanic man appearing his
stated age, with short hair, appropriate grooming and hygiene,
dressed in athletic pants and a black T-shirt, in no apparent
distress
- Behavior: sitting comfortably in his chair, calm, good eye
contact; no psychomotor retardation or agitation or abnormal
movements observed
- Attitude: cooperative, engaged
- Mood: "Good"
- Affect: euthymic, reactive, appropriate
- Speech: normal rate, volume and tone
- Thought process: largely linear and goal-oriented
- Thought Content:
- Safety: Denies SI/HI
- Delusions: None elicited
- Obsessions/Compulsions: None elicited
- Hallucinations: Denies AVH, does not appear to be attending to
internal stimuli, does not appear to be distractible by external
stimuli
- Insight: fair, poor re substance use
- Judgment: fair
Cognition: not formally tested
- Wakefulness/alertness: awake and alert
- Attention: Attends to interview
- Orientation: Oriented to person, time, place, situation
- Memory: intact to interview
- Language: native ___ speaker, appropriate to conversation
 
Pertinent Results:
___ 04:55AM BLOOD WBC-8.4 RBC-4.39* Hgb-12.9* Hct-38.3* 
MCV-87 MCH-29.4 MCHC-33.7 RDW-11.9 RDWSD-38.3 Plt ___
___ 04:55AM BLOOD Neuts-72.6* ___ Monos-6.2 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-6.13* AbsLymp-1.72 
AbsMono-0.52 AbsEos-0.02* AbsBaso-0.03
___ 04:55AM BLOOD Plt ___
___ 04:55AM BLOOD Glucose-105* UreaN-10 Creat-0.9 Na-142 
K-4.1 Cl-105 HCO3-23 AnGap-14
___ 04:55AM BLOOD Cholest-144
___ 04:55AM BLOOD %HbA1c-5.3 eAG-105
___ 04:55AM BLOOD Triglyc-124 HDL-46 CHOL/HD-3.1 LDLcalc-73
___ 04:55AM BLOOD TSH-1.2
___ 04:55AM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
___ 11:02AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:02AM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 11:02AM URINE RBC-0 WBC-2 Bacteri-NONE Yeast-NONE Epi-0
___ 11:02AM URINE Mucous-OCC*
___ 11:02AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
 On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
On admission patient endorsed ongoing passive death wish, 
depression, overwhelming anxiety, impulsivity, poor distress 
tolerance, and using alcohol as a coping mechanism in the 
context of recent legal stressor of pending DUI trial and 
break-up with ex-girlfriend. He was interested in medication 
management and improving his coping skills. Collateral 
information obtained from patient's family was concerning for 
aggressive behavior (broke ex-girlfriend's window), intrusive 
behavior, impulsivity, non-adherence with therapy appointments, 
escalating substance use, and threatened of self-harm.

Patient's differential diagnosis is complicated and includes 
depressive disorder and ADHD exacerbated by cannabis and alcohol 
use, as well as maladaptive personality traits.

Given history suggestive of ADHD and reported prior positive 
response to bupropion, patient was started on bupropion 100 mg 
QAM, which he tolerated well an reported positive response. He 
was also started on quetiapine 25 mg TID PRN for 
anxiety/agitation, which by the time of discharge was decreased 
to 25 mg QHS PRN for anxiety or insomnia. Patient also received 
trazodone 25 mg QHS PRN for insomnia while hospitalized. Patient 
is to continue bupropion 100 mg QAM and quetiapine 25 mg QHS PRN 
for anxiety or insomnia post discharge.

By the time of discharge, patient consistently denied any 
suicidal ideation and reported a significant improvement in his 
mood and anxiety. On mental status exam he appeared calm, 
non-anxious, with normal range, reactive euthymic affect.

Patient is to follow up with a therapist and ___ psychiatric NP 
for his psychiatric medication management. 

3. SUBSTANCE USE DISORDERS:
Patient has a history of alcohol use and cannabis use disorders. 

He was intensively counseled about his cannabis use disorder and 
the psychiatric risks of cannabis use during hospitalization. He 
is to follow up regarding his cannabis use disorder with his 
outpatient providers.
Patient was neither intoxicated nor withdrawing on admission and 
therefore did not require any treatment for these conditions. He 
was counseled about his alcohol use disorder and the psychiatric 
risks of alcohol use during hospitalization. He agreed to trying 
acamprostate to decrease alcohol cravings and received a 
prescription for acamprostate 666 mg TID at discharge.  He is to 
follow up regarding his alcohol use disorder with his outpatient 
providers.

4. MEDICAL
Patient does not have any chronic medical issues.

5. PSYCHOSOCIAL
 #) GROUPS/MILIEU:  
 The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Patient 
was reluctant to attend groups at first but ultimately found 
them useful and learned new coping skills. He was in good 
behavioral control, cooperative with staff and compliant with 
his treatment throughout his hospitalization.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Collateral information was obtained from patient's mother, 
sister, cousin and therapist (patient did not have an 
established psychiatrist). Patient's discharge plan was 
discussed and coordinated with patient's mother and sister.
 
 #) INTERVENTIONS
 - Medications: Given history suggestive of ADHD and reported 
prior positive response to bupropion, patient was started on 
bupropion 100 mg QAM, which he tolerated well an reported 
positive response. He was also started on quetiapine 25 mg TID 
PRN for anxiety/agitation, which by the time of discharge was 
decreased to 25 mg QHS PRN for anxiety or insomnia. Patient also 
received trazodone 25 mg QHS PRN for insomnia while 
hospitalized. Patient is to continue bupropion 100 mg QAM and 
quetiapine 25 mg QHS PRN for anxiety or insomnia post discharge. 
Patient is also to take acamprostate 666 mg TID for his alcohol 
use disorder.
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: patient's post-discharge plan was 
coordinated with his mother and sister.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting quetiapine, including weight gain, metabolic syndrome, 
sedation and the risk of EPS development, as well as risks and 
benefits of possible alternatives, including not taking the 
medication, with this patient.   We discussed the patient's 
right to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team.  The patient appeared able to understand and 
consented to begin the medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself and others based upon his 
expressed suicidal ideation with plan and his recent act of 
violence (breaking a window at his ex-girlfriend's apartment 
building). His static risk factors noted at that time included a 
self-reported history of childhood abuse, chronic mental 
illness, history of substance abuse, male gender, young age, 
single marital status, and the presence of a concurrent 
maladaptive personality traits. Patient's modifiable risk 
factors at the time included suicidal ideation with a plan, 
medication noncompliance, lack of engagement with outpatient 
treatment, recklessness, limited coping skills, active substance 
abuse/intoxication, impulsivity,  and recent legal and personal 
stressors. Most of patient's modifiable risk factors were 
addressed during hospitalization with medication adjustment, 
counseling regarding cannabis and alcohol use disorders and 
group, individual and milieu therapy. Patient is being 
discharged with many protective risk factors, including 
future-oriented viewpoint, lack of suicidal ideation, and strong 
social supports.  Overall, patient is not at an acutely elevated 
risk of self-harm nor danger to others due to acutely 
decompensated psychiatric illness. 
Patient's prognosis is guarded/fair.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  Acamprosate 666 mg PO TID 
RX *acamprosate 333 mg 2 tablet(s) by mouth three times a day 
Disp #*84 Tablet Refills:*0 
2.  BuPROPion (Sustained Release) 100 mg PO QAM 
RX *bupropion HCl 100 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
3.  QUEtiapine Fumarate 25 mg PO DAILY:PRN anxiety/agitation 
RX *quetiapine 25 mg 1 tablet(s) by mouth daily PRN Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, no psychotic features
Alcohol use disorder
Cannabis use disorder
r/o ADD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___